US04734415
4,5-Dihydro-6-[4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]-3(2H)-pyridazinone
A mixture of 9 g of 4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)-γ-oxobenzenebutanoic acid and 3.5 g of hydrazine hydrate in 80 ml of ethanol is heated under reflux for six hours. The reaction mixture is allowed to cool and filtered. The crude product is finally crystallized from 2-methoxyethanol to yield 4.5 g of the product 4,5-dihydro-6-[4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]-3(2H)-pyridazinone, mp 296°-297° C.

reactant | 4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)-γ-oxobenzenebutanoic acid | 9 g | N1(C=NC2=C1CCCC2)C2=CC=C(C=C2)C(CCC(=O)O)=O | C17H18N2O3
reactant | hydrazine hydrate | 3.5 g | O.NN
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4,5-Dihydro-6-[4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]-3(2H)-pyridazinone | 4.5 g | N1(C=NC2=C1CCCC2)C2=CC=C(C=C2)C=2CCC(NN2)=O | C17H18N4O
